US05965741
To a suspension of pentyl triphenylphosphonium bromide (4.76 g, 11.5 mMol) in freshly distilled THF (40 ml) was added LiN(SiMe3)2 (1N in THF, 23 ml). The red solution was stirred at ambient temperature for 30 minutes then a solution of p-hydroxybenzaldehyde (1.06 g, 10 mMol) in THF (10 ml) added. The reaction was stirred at ambient temperature for 4 days, then partitioned between ethyl ether and dilute aqueous HCl (1N). The combined etherial extracts were washed with brine, dried (MgSO4) and evaporated. The crude oil was purified by chromatography (eluant: ethyl ether/hexane) to give 4-(1-hexenyl)phenol as a pale yellow solid (1.5 g, 85%).

reactant | pentyl triphenylphosphonium bromide | 11.5 mMol, 4.76 g | [Br-].C(CCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | LiN(SiMe3)2 | 1N, 23 ml | [Li]N([Si](C)(C)C)[Si](C)(C)C
reactant | p-hydroxybenzaldehyde | 10 mMol, 1.06 g | OC1=CC=C(C=O)C=C1 | C7H6O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 4-(1-hexenyl)phenol | 1.5 g, 85% | C(=CCCCC)C1=CC=C(C=C1)O | C12H16O
